US08912224B2
A solution of 2-(6-methoxy-chroman-2-yl)-pyrazine (663 mg, 2.74 mmol) in 50 ml of anhydrous dichloromethane was cooled to −10° C., and a solution of boron tribromide (9.6 ml of 1M solution in dichloromethane, 9.6 mmol) was added dropwise. After stirring at 0° C. for 1 h, 1 ml of boron tribromide solution was added and the reaction mixture was stirred at 0° C. for 1.5 h. The reaction mixture was quenched by slow addition of water, and after 10 min neutralized by addition of a sodium hydrogencarbonate solution. After decantation and extraction with dichloromethane, the organic layer was dried over sodium sulfate and concentrated in vacuo. After chromatography on silica gel (methanol in dichloromethane), 2-pyrazin-2-yl-chroman-6-ol was obtained as a yellow powder (625 mg, 100%).

reactant | 2-(6-methoxy-chroman-2-yl)-pyrazine | 2.74 mmol, 663 mg | COC=1C=C2CCC(OC2=CC1)C1=NC=CN=C1 | C14H14N2O2
reactant | boron tribromide | 9.6 mmol, 1M, 9.6 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-pyrazin-2-yl-chroman-6-ol | N1=C(C=NC=C1)C1OC2=CC=C(C=C2CC1)O | C13H12N2O2
